US04935515
2,3,4,5-Tetrahydro-3-(Phenylmethyl)-1H-[1,2,5]Triazepino[1,2-a][1,2,4]-Benzotriazine-7(8H)-Thione (XIIb)
Hexahydro-1-(2-nitrophenyl)-5-(phenylmethyl)-1H-1,2,5-triazepine (10.0 g) was hydrogenated in 1,2-dimethoxyethane (250 ml) as in example 11 and the volume reduced to approximately 150 ml. 1,1'-Thiocarbonyldiimidazole (20 g) was added and the solution refluxed with protection from moisture overnight. The solution was evaporated to dryness and the residue, dissolved in chloroform, was applied to a column (72×6.3 cm) of dry column grade neutral alumina prepacked in chloroform. Elution with chloroform provided a major component. Evaporation of appropriate fractions gave a product which was difficult to crystallize. This material was subjected to further fractionation on a column (67.5×4.2 cm) of the same absorbent with chloroform as eluting solvent. Fractions were monitored by t.l.c. on Alox-25 uv254 plates with ethyl acetate as developer. Evaporation of homogenous fractions provided material which was crystallized from chloroform-heptane; wt. 5.35 (51%), mp=124°-126°. Recrystallization (with decolorization) from the same solvents gave pure titled product, mp=125°-127°.

reactant | Hexahydro-1-(2-nitrophenyl)-5-(phenylmethyl)-1H-1,2,5-triazepine | 10.0 g | [N+](=O)([O-])C1=C(C=CC=C1)N1NCCN(CC1)CC1=CC=CC=C1 | C17H20N4O2
reactant | 1,1'-Thiocarbonyldiimidazole | 20 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
product | 2,3,4,5-Tetrahydro-3-(Phenylmethyl)-1H-[1,2,5]Triazepino[1,2-a][1,2,4]-Benzotriazine-7(8H)-Thione | C1(=CC=CC=C1)CN1CCN2N(C3=C(NC2=S)C=CC=C3)CC1 | C18H20N4S
